US03950380
B. 3-hydroxy-5-nitro-4-phenylbenzoic acid
5-Carboxy-3-nitro-2phenylbenzenediazonium tetrafluoroborate (110 g ) is added in portions to a stirred and refluxing mixture of acetic anhydride (275 ml) and acetic acid (275 ml). The mixture is refluxed for a further 4-5 hours and is then poured into ice-water (about 4 liters). The mixture is left for 20 hours, and the precipitated crude 3-acetoxy-5-nitro-4-phenylbenzoic acid is collected by filtration, washed with water and dried. It is saponified by heating with 4 N sodium hydroxide (250 ml) for 30 minutes; the resulting solution is left at 5° C for about 20 hours and is then filtered. The filtrate is acidified with 4 N hydrochloric acid to precipitate 3-hydroxy-5-nitro-4-phenylbenzoic acid. It is collected by filtration, washed with water and dried. After recrystallization from aqueous methanol, the acid is obtained with a melting point of 213°-215° C.

reactant | 5-Carboxy-3-nitro-2phenylbenzenediazonium tetrafluoroborate | 110 g | F[B-](F)(F)F.C(=O)(O)C=1C=C(C(=C(C1)[N+]#N)C1=CC=CC=C1)[N+](=O)[O-]
reactant | acetic anhydride | 275 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 275 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-5-nitro-4-phenylbenzoic acid | OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C13H9NO5
